US08080566B1
A 250-mL 3-necked round-bottomed flask was charged with a solution of tert-butyl 3-carbamoylpiperidine-1-carboxylate (5 g, 21.49 mmol, 1.00 equiv, 98%) in pyridine (50 mL). To this solution, POCl3 (5 g, 32.24 mmol, 1.50 equiv, 98%) was added drop wise at 0° C. and allowed to stir at 0° C. for 1 hour. The progress was monitored by TLC (EA:PE=1:1). The pyridine was removed by distillation. The mixture was diluted with H2O (40 mL) and pH was adjusted to 8 by addition of aqueous NaHCO3. Then, the resulting mixture was extracted with ethyl acetate (3×30 mL). Combined organic layers were dried over anhydrous sodium sulfate, filtered off and concentrated on a rotary evaporator. The crude was purified by distillation under reduced pressure (30 mm Hg) and the fractions collected at 40° C. to afford tert-butyl 3-cyanopiperidine-1-carboxylate as yellow oil (2.6 g, 53%).

reactant | tert-butyl 3-carbamoylpiperidine-1-carboxylate | 21.49 mmol, 5 g, 1.00 equiv | C(N)(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C11H20N2O3
reactant | POCl3 | 32.24 mmol, 5 g, 1.50 equiv | O=P(Cl)(Cl)Cl | Cl3OP
reactant | EA | CC(OCC)=O | C4H8O2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 3-cyanopiperidine-1-carboxylate | 2.6 g, 53% | C(#N)C1CN(CCC1)C(=O)OC(C)(C)C | C11H18N2O2
